US04985561
Preparation of 4-Sulfophenyl Chloroformate
To a 100 mL 3-necked round bottom flask equipped with a magnetic stirrer, addition funnel topped with a drying tube containing calcium sulfate was added 35 mLs of methylene chloride. The reaction solvent was cooled with an ice water bath. To the flask was added 2.8 grams (0.035 mole) of liquid sulfur trioxide. Thereupon the reaction solution became a very pale clear yellow liquid. The ice water bath cooled reaction vessel was then charged with 5.48 grams (0.035 mole) of phenyl chloroformate added dropwise so as to control the reaction exotherm. When approximately half of the chloroformate had been added, a white precipitate began to form. Upon completion of the addition, the reaction mixture was allowed to warm to room temperature. After six hours at room temperature, a 95%+ conversion was noted by proton nmr analysis. Solvent was removed under vacuum and the remaining white to slightly off-white crystalline solid was used as is for the condensation reaction. The following spectroscopic data was obtained for this material:

reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | phenyl chloroformate | 0.035 mole, 5.48 grams | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | chloroformate | ClC(=O)[O-]
solvent | methylene chloride | 35 mLs | C(Cl)Cl | CH2Cl2
product | 4-Sulfophenyl Chloroformate | ClC(=O)OC1=CC=C(C=C1)S(=O)(=O)O | C7H5ClO5S
